US03951959
1,3-Bis(mesyloxy)-17β-acetoxy-8α-estra-1,3,5(10)triene
A solution of 200 mg. of 1,3-bis(mesyloxy)-8α-estra-1,3,5(10)-trien-17β-ol in 3 ml. of pyridine is combined with 2 ml. of acetic anhydride and allowed to stand at room temperature for 3 days. Then, the mixture is introduced into ice water, extracted with methylene chloride, washed with water, dried, and evaporated. The residue (180 mg.) is purified by layer chromatography, thus obtaining 150 mg. of 1,3-bis(mesyloxy)-17β-acetoxy-8α-estra- 1,3,5(100-triene.

reactant | 1,3-bis(mesyloxy)-8α-estra-1,3,5(10)-trien-17β-ol | S(=O)(=O)(C)OC1=CC(=CC=2CC[C@@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C12)O)OS(=O)(=O)C | C20H28O7S2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,3-Bis(mesyloxy)-17β-acetoxy-8α-estra-1,3,5(10)triene | S(=O)(=O)(C)OC1=CC(=CC=2CC[C@@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C12)OC(C)=O)OS(=O)(=O)C | C22H30O8S2
